US07038077B2
Synthesis of (1S,2S,5R,6S)-2-Allyloxycarbonylamino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid
(1S,2S,5R,6S)-2-Amino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid (15.0 g, 73.9 mmol) was slowly dissolved in 250 mL of saturated sodium bicarbonate. After complete solution, dioxane (100 mL) and allyl chloroformate (15.7 mL, 147.8 mmol) were added at room temperature and the mixture was stirred overnight. The reaction mixture was diluted with water (100 mL) and washed with three portions of ethyl acetate. The organic layer was extracted once with saturated sodium bicarbonate. The combined aqueous layers were acidified to pH 1 with 4N hydrochloric acid and extracted with two portions of ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated to provide the title compound as an oil (13.4 g, 67% yield).

reactant | (1S,2S,5R,6S)-2-Amino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 73.9 mmol, 15.0 g | N[C@@]1([C@@H]2[C@H]([C@@H]2CC1)C(=O)O)C(=O)O | C8H11NO4
reactant | dioxane | 100 mL | O1CCOCC1 | C4H8O2
reactant | allyl chloroformate | 147.8 mmol, 15.7 mL | ClC(=O)OCC=C | C4H5ClO2
solvent | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
solvent | water | 100 mL | O | H2O
product | (1S,2S,5R,6S)-2-Allyloxycarbonylamino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 13.4 g, 67% yield | C(C=C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2CC1)C(=O)O)C(=O)O | C12H15NO6
